US05474998
Step C: 4-chloro-2-[(2-methylene-3-butenyl)oxy]benzaldehyde
To a solution of 4.1 g (0.026 mol) of 4-chloro-2-hydroxybenzaldehyde and 27 mL of DMF was added 5 g (0.034 mol) of 2-bromomethyl-1,3-butadiene and 7.2 g (0.052 mol) of potassium carbonate. The resulting mixture was heated at 70° C. for 4 h and then cooled to room temperature and poured into a mixture of 100 mL of water and 100 mL of methylene chloride. The aqueous layer was extracted with two 100 mL portions of methylene chloride and the combined organic layers were washed twice with 100 mL of water, twice with 100 mL of saturated sodium bicarbonate solution, dried over magnesium sulfate and concentrated to give 4.9 g of an oil. Purification by flash chromatography using 250 g of silica gel and eluting with 10:1 hexanes-EtOAc gave 2.6 g of the desired product. 200 MHz 1H NMR (CDCl3): δ4.82 (s, 2H), 5.18-5.42 (m, 4H), 6.45 (dd, 1H), 7.01 (s, 1H), 7.05 (d, 1H), 7.79 (d, 1H), 10.48 (s, 1H).

reactant | 4-chloro-2-hydroxybenzaldehyde | 0.026 mol, 4.1 g | ClC1=CC(=C(C=O)C=C1)O | C7H5ClO2
reactant | DMF | 27 mL | CN(C)C=O | C3H7NO
reactant | 2-bromomethyl-1,3-butadiene | 0.034 mol, 5 g | BrCC(=C)C=C | C5H7Br
reactant | potassium carbonate | 0.052 mol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 4-chloro-2-[(2-methylene-3-butenyl)oxy]benzaldehyde | 4.9 g | ClC1=CC(=C(C=O)C=C1)OCC(C=C)=C | C12H11ClO2
